US07011838B2
Using 1.19 g of (4-(trifluoromethoxy)benzylidene)malononitrile, 20 ml of tetrahydrofuran, a catalytic amount of copper (1) iodide, and 12.5 ml of a solution of methyl magnesium bromide in tetrahydrofuran (about 1 M, available from Tokyo Kasei Kogyo Co., Ltd), and according to the process described in REFERENCE PRODUCTION EXAMPLE 2, there was obtained 0.76 g of (1-(4-(trifluoromethoxy)phenyl)ethyl)malononitrile (the intermediate (10)).

reactant | (4-(trifluoromethoxy)benzylidene)malononitrile | 1.19 g | FC(OC1=CC=C(C=C(C#N)C#N)C=C1)(F)F | C11H5F3N2O
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | about 1 M | O1CCCC1 | C4H8O
catalyst | copper (1) iodide | [Cu]I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (1-(4-(trifluoromethoxy)phenyl)ethyl)malononitrile | 0.76 g, Yield: 60% | FC(OC1=CC=C(C=C1)C(C)C(C#N)C#N)(F)F | C12H9F3N2O
